US05194671
Under the same conditions as in Example 1, 116 g (1.0 mol) of methyl acetoacetate in a mixture of 520 ml of methylene chloride and 30 ml of methyl ethyl ketone were reacted with 77.8 g (1.05 mol) of calcium hydroxide and 122.6 g (1.15 mol) of isobutyryl chloride. The pH in the subsequent reaction with ammonia was adjusted to 9.2. This gave 136 g (GC purity 79.8%) of methyl isobutyrylacetate (yield 75.4%).

reactant | methyl acetoacetate | 1.0 mol, 116 g | C(CC(=O)C)(=O)OC | C5H8O3
reactant | calcium hydroxide | 1.05 mol, 77.8 g | [OH-].[Ca+2].[OH-]
reactant | isobutyryl chloride | 1.15 mol, 122.6 g | C(C(C)C)(=O)Cl | C4H7ClO
reactant | ammonia | N | H3N
solvent | methylene chloride | 520 ml | C(Cl)Cl | CH2Cl2
solvent | methyl ethyl ketone | 30 ml | C(C)C(=O)C | C4H8O
product | methyl isobutyrylacetate | 136 g, yield 75.4% | C(C(C)C)(=O)CC(=O)OC | C7H12O3
